US04767858
3-Carbethoxymethyl-2-methylthio-7-phenylpyrazolo [1,5-a]-1,3,5-triazine-4-one
A mixture of 260 mg of 2-methylthio-7-phenylpyrazolo [1,5-a]-1,3,5-triazine-4-one and 140 mg of anhydrous potassium carbonate in 5 ml dry dimethylformamide is stirred at room temperature for 15 min while 0.14 ml ethylbromacetate is added dropwise. The mixture is stirred at room temperature overnight, filtered, and the filter cake washed with dimethylformamide.

reactant | 2-methylthio-7-phenylpyrazolo [1,5-a]-1,3,5-triazine-4-one | 260 mg | CSC1=NC=2N(C(N1)=O)N=C(C2)C2=CC=CC=C2 | C12H10N4OS
reactant | potassium carbonate | 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethylbromacetate | 0.14 ml | C(C)OC(CBr)=O | C4H7BrO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-Carbethoxymethyl-2-methylthio-7-phenylpyrazolo [1,5-a]-1,3,5-triazine-4-one | C(=O)(OCC)CN1C(=NC=2N(C1=O)N=C(C2)C2=CC=CC=C2)SC | C16H16N4O3S
